US06852730B2
A mixture of 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide (192 mg, 0.50 mmol), 3-(dimethylamino)-acrolein 0.15 mL (1.50 mmol), ammonium acetate (384 mg, 5.00 mmol), and acetic acid (2.0 mL) is stirred under nitrogen at 100° C. for 16 h, poured into ice-cold 10% NaCl (20 mL), treated with 10 N NaOH to pH 12 and extracted with chloroform (30 mL). The extract is concentrated under reduced pressure and the residue is chromatographed on silica gel using chloroform-methanol-30% ammonium hydroxide (90:9:1, v/v/v) as an eluent to give pure 5,7-dihydro-6H-pyrazolo[3,4-h]quinoline-9-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide. 1H NMR (CDCl3) t, J=7.1 Hz, 6H), 1.96 (m, 2H), 2.57 (q, J=7.1 Hz, 4H), 2.65 (m, 2H), 3.10 (m, 4H), 4.33 (t, J=6.3 Hz, 2H), 6.80 (d, J=8.8 Hz, 1H), 7.21 (dd, J=7.7 and 4.9 Hz, 1H), 7.66 (d, J=7.7 Hz, 1H), 8.32 (dd, J=8.9 and 2.7 Hz, 1H), 8.44 (d, J=2.7 Hz, 1H), 8.47 (dd, J=4.9 and 1.1 Hz, 1H). MW 420.519; MS (M−H)− 419.

reactant | 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide | 0.50 mmol, 192 mg | C(C)N(CCCOC1=CC=C(C=N1)NC(=O)C1=NNC=2CCCC(C12)=O)CC | C20H27N5O3
reactant | 3-(dimethylamino)-acrolein | 1.50 mmol, 0.15 mL | CN(C=CC=O)C | C5H9NO
reactant | ammonium acetate | 5.00 mmol, 384 mg | C(C)(=O)[O-].[NH4+]
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | 5,7-dihydro-6H-pyrazolo[3,4-h]quinoline-9-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide | C(C)N(CCCOC1=CC=C(C=N1)NC(=O)C1=NNC=2CCC=3C=CC=NC3C21)CC | C23H28N6O2
